Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1][C:2]([H:3])([H:4])[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[H:4],0.5850595429300001
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]=[C:10](\[H:11])[O:12][H:13].[H:9],4.890462379190001
[O:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10]>>[C:2]([H:3])([H:4])[C:5]([O:6][H:7])=[C:8]([H:9])[H:10].[O:1],4.34494578615
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-3.8108162909900014
[H:1][C:2]([H:3])[O:4][C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:5](=[C:6]([H:7])[H:8])=[C:9]([H:10])[C:11]([H:12])[H:13].[H:1][C:2]([H:3])=[O:4],0.6688783451
[C:6]([H:7])[H:8].[H:1][O:2][C:3]([C:4]#[C:5])[O:9][H:10]>>[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])[H:8])[O:9][H:10],-6.714585381340001
[H:1][O:2]/[C:3]=[C:4]1/[C:5][O:6][C:7]1([H:8])[H:9]>>[H:1].[O:2]=[C:3]=[C:4]1[C:5][O:6][C:7]1([H:8])[H:9],0.806239736798
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][C:13]([H:14])([H:15])[H:16]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[H:6],-1.32487033
[H:1][C:2](=[C:6]=[C:4]([C:3]([H:7])([H:8])[C:9]([H:10])[H:11])[H:5])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.08864279187
[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-7.35788570646
[C:1]#[C:2][C:3]([O:4][C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][C:3](=[O:4])[C:8]([H:9])([H:10])[H:11].[C:5]([H:6])[H:7],4.25998565285
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:9]([H:10])([H:11])[H:12].[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[O:8])[C:13]([H:14])([H:15])[H:16],3.82723032176
[O:1]=[C:2]([H:3])[C:4]1[C:5][C@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4](=[C:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],0.8304337686200001
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[O:10][H:11].[H:9],2.8921935104000003
[C:3]([H:4])=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-6.09065969008
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.5681266989
[H:1][C:2]#[C:3][O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-2.46198783067
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[C:7]([H:8])([H:9])[O:10][H:11],4.32282651307
[H:12].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10][H:11]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-5.1308060136
[H:1][C:2]([H:3])[C:4]([C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],1.15762019812
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[O:8][C:9]=[C:10]([H:11])[H:12]>>[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[O:8][C:9][C:10]1([H:11])[H:12],-3.00357255782
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.528939375959999
[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.436454595511
[H:1][C:2]#[C:3][C:4][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-4.78655797879
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]=[C:11]([H:12])[H:13],4.8361259509900005
[C:8]([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6][H:7]>>[H:1][C:2]([H:3])=[C:4][O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-7.17891608015
[H:1][C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[C:2](#[C:3][C:4]([H:5])([H:6])[H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:1],1.90091617069
